US06197826B1
Synthesis of α-(3,5-Dibromo-2-hydroxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 13 using 3,5-dibromo-2-hydroxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 68.7% yield as a yellow crystalline solid, m.p. 111.3° C. (Rf=0.54 on a silica gel plate using 7:3 hexanes/EtOAc as an eluant).

reactant | 3,5-dibromo-2-hydroxybenzaldehyde | BrC=1C(=C(C=O)C=C(C1)Br)O | C7H4Br2O2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3,5-Dibromo-2-hydroxyphenyl)-N-tert-butylnitrone | BrC=1C(=C(C=C(C1)Br)C=[N+]([O-])C(C)(C)C)O | C11H13Br2NO2
